US07629363B2
Ethyl 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylate
To a mixture of 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (6.0 g, 0.018 mol) and ethyl 5-(bromomethyl)pyrazine-2-carboxylate (4.9 g, 0.02 mol) in THF (50.0 mL) was added NaH (0.5 g) and heated at 55° C. under argon atmosphere for 3 h. The reaction mixture was cooled added acetic acid (1.2 ml) and concentrated under reduced pressure. The residue was triturated with water and filtered the solid. It was washed with water, followed by ethanol and dried in vacuo to afford the title compound (3.0 g, 78%)as alight brown powder: 1H NMR (CD3OD/400 MHz) δ9.10 (d. 1H, J=1.2 Hz), 8.77 (d, 1H, J=1.2 Hz), 7.61 (m, 1H), 7.01 (m 2H), 6.54 (s, 1H), 5.54 (s, 2H), 5.30 (s, 2H), 4.43 (q, 2H, J=6.8 Hz), 2.52 (s, 3H), and 1.39 (t, 3H, J=6.8 Hz); 19F NMR (CD3OD/400 MHz) δ−111.64 (m), and −116.04 (m); ES-HRMS m/z 494.0482 (M+H C21H19N3O4BrF2 requires 494.0522).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 0.018 mol, 6.0 g | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | ethyl 5-(bromomethyl)pyrazine-2-carboxylate | 0.02 mol, 4.9 g | BrCC=1N=CC(=NC1)C(=O)OCC | C8H9BrN2O2
reactant | NaH | 0.5 g | [H-].[Na+]
reactant | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
product | Ethyl 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylate | 3.0 g, 78% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)C(=O)OCC)=O | C21H18BrF2N3O4
